US08937078B2
Step B: Preparation of 1-[7-chloro-6-(3,4-dimethoxy-benzenesulfonyl)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid.
1-[7-Chloro-6-(3,4-dimethoxy-benzenesulfonyl)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester was combined with THF (5 mL), followed by the addition of a solution of aqueous 1M KOH (2.7 mL, 2.7 mmol), and the mixture was stirred for 16 h. The reaction mixture was cooled in an ice bath, then 1M aqueous HCl (5 mL) and water (5 mL) was added. The resulting precipitate was collected and purified by HPLC to furnish the titled compound (16 mg, 12%). MS (Cl): mass calcd. for C20H15ClN4O7S, 490.0; m/z found, 489.0 [M−H]−. 1H NMR (500 MHz, DMSO-d6): 13.10 (s, 2H), 8.95 (s, 1H), 8.86 (s, 1H), 8.32 (s, 1H), 7.87 (s, 1H), 7.59 (dd, J=8.6, 1.8, 1H), 7.41 (d, J=2.0, 1H), 7.19 (d, J=8.6, 1H), 3.85 (s, 3H), 3.81 (s, 3H).

reactant | 1-[7-Chloro-6-(3,4-dimethoxy-benzenesulfonyl)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1C=NN(C1)C1=NC2=CC(=C(C=C2C(N1)=O)S(=O)(=O)C1=CC(=C(C=C1)OC)OC)Cl | C22H19ClN4O7S
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | KOH | 2.7 mmol, 1M, 2.7 mL | [OH-].[K+]
reactant | HCl | 1M, 5 mL | Cl | ClH
solvent | water | 5 mL | O | H2O
product | 1-[7-chloro-6-(3,4-dimethoxy-benzenesulfonyl)-4-oxo-3,4-dihydro-quinazolin-2-yl]-1H-pyrazole-4-carboxylic acid | 16 mg, 12% | ClC1=C(C=C2C(NC(=NC2=C1)N1N=CC(=C1)C(=O)O)=O)S(=O)(=O)C1=CC(=C(C=C1)OC)OC | C20H15ClN4O7S
